US07592373B2
4.8.b. [2-(3-chloro-4-aminophenoxy)ethyl]diethylamine
Prepared analogously to Example 3.1.b. from [2-(3-chloro-4-nitrophenoxy)ethyl]diethylamine in ethyl acetate. Yield: 1.05 g (95.4% of theory); C12H19ClN2O (M=242.75); calc.: molecular ion peak (M+H)+: 243/245; found: molecular ion peak (M+H)+: 243/245; Rf value: 0.41 (silica gel, dichloromethane/methanol (90:10)).

reactant | [2-(3-chloro-4-nitrophenoxy)ethyl]diethylamine | ClC=1C=C(OCCN(CC)CC)C=CC1[N+](=O)[O-] | C12H17ClN2O3
reactant | dichloromethane methanol | ClCCl.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(3-chloro-4-aminophenoxy)ethyl]diethylamine | ClC=1C=C(OCCN(CC)CC)C=CC1N | C12H19ClN2O
